US08030487B2
Synthesis of 3-(3-(Trifluoromethyl)phenylcarbamoyl)benzoic acid (Intermediate 69)
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.34 g, 7 mmol) was added to a stirring solution of isophthalic acid (1.66 g, 10 mmol) and 3-(trifluoromethyl)benzenamine (0.8 g, 5 mmol) in anhydrous CH2Cl2 (10 mL) and DMF (10 mL). The mixture was stirred at room temperature under argon for 2 h. The solvent was removed under reduced pressure and recrystalized from water to afford the title compound as a white solid after washed by CHCl3 (1.5 g, 49%).

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 7 mmol, 1.34 g | Cl.CN(CCCN=C=NCC)C
reactant | isophthalic acid | 10 mmol, 1.66 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 3-(trifluoromethyl)benzenamine | 5 mmol, 0.8 g | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(3-(Trifluoromethyl)phenylcarbamoyl)benzoic acid | FC(C=1C=C(C=CC1)NC(=O)C=1C=C(C(=O)O)C=CC1)(F)F | C15H10F3NO3
